US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-carbamoyl-2-cyclobutyl-ethyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 2-amino-3-cyclobutyl-propionamide (52.5 mg, 0.26 mmol) as starting materials and isolated (30 mg, 39.4%) as white solid; LC-MS (UV peak area, ESI) 99.04%%, 357.4 (M−H)'.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-3-cyclobutyl-propionamide | 0.26 mmol, 52.5 mg | NC(C(=O)N)CC1CCC1 | C7H14N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-carbamoyl-2-cyclobutyl-ethyl)-amide | C(N)(=O)C(CC1CCC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H26N4O3
